US09388161B2
A mixture of (S)-methyl 6-bromo-2-methyl-5-propoxy-3,4-dihydroquinoline-1(2H)-carboxylate (0.060 g, 0.175 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.066 g, 0.175 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) (XPhos 2nd generation precatalyst) (0.014 g, 0.018 mmol), and cesium carbonate (0.171 g, 0.526 mmol) in 1,4-dioxane (2.0 mL) and water (0.40 mL) was heated in the microwave at 100° C. for 5 h. The reaction mixture was filtered through Celite and concentrated to afford an orange oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford (S)-methyl 6-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-5-propoxy-3,4-dihydroquinoline-1(2H)-carboxylate (0.090 g, 100%) as a colorless oil. MS (ESI, pos. ion) m/z 513 [M+H]+.

reactant | (S)-methyl 6-bromo-2-methyl-5-propoxy-3,4-dihydroquinoline-1(2H)-carboxylate | 0.175 mmol, 0.060 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OCCC | C15H20BrNO3
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.175 mmol, 0.066 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | cesium carbonate | 0.526 mmol, 0.171 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-i-propyl-1,1′-biphenyl)(2′-amino-1,1′-biphenyl-2-yl) palladium(II) | 0.018 mmol, 0.014 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
product | (S)-methyl 6-(1-(1-(tert-butoxycarbonyl)piperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-5-propoxy-3,4-dihydroquinoline-1(2H)-carboxylate | 0.090 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OCCC | C28H40N4O5
